US08222417B2
To a suspension of methyl 4-{[2-(benzyloxy)-2-oxoethyl]amino}-adamantane-1-carboxylate thus obtained (3.30 g) in tetrahydrofuran (20 ml), methanol (10 ml) and 8M aqueous sodium hydroxide (10 ml) were added and stirred at room temperature for 3 hours. After the reaction mixture was concentrated, the resulting residue was diluted with 1M aqueous sodium hydroxide and washed with diethyl ether. The resulting aqueous layer was diluted with 12M aqueous hydrochloric acid and extracted with chloroform. The organic layer was washed with brine and then dried over anhydrous sodium sulfate. After the desiccant was filtered off, the solvent was distilled off under reduced pressure to give 4-{[2-(benzyloxy)-2-oxoethyl]amino}-adamantane-1-carboxylic acid (2.95 g) as a light-brown viscous substance.

reactant | methyl 4-{[2-(benzyloxy)-2-oxoethyl]amino}-adamantane-1-carboxylate | C(C1=CC=CC=C1)OC(CNC1C2CC3(CC(CC1C3)C2)C(=O)OC)=O | C21H27NO4
reactant | methanol | 10 ml | CO | CH4O
reactant | sodium hydroxide | 8M, 10 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-{[2-(benzyloxy)-2-oxoethyl]amino}-adamantane-1-carboxylic acid | 2.95 g | C(C1=CC=CC=C1)OC(CNC1C2CC3(CC(CC1C3)C2)C(=O)O)=O | C20H25NO4
